US08309542B2
(c) 5-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carboxylic acid (as hydrochloride salt)
Prepared analogously to Example 45b from ethyl 5-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carboxylate (as the trifluoroacetate salt).

reactant | ethyl 5-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carboxylate | CN1CC2=C(CC1)SC(=C2)C(=O)OCC | C11H15NO2S
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 5-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carboxylic acid | CN1CC2=C(CC1)SC(=C2)C(=O)O | C9H11NO2S
